US07157447B2
Additional procedure. Ethyl 3-hydroxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate (50 g, 0.186 mol) and ethanol SDA3A (500 mL) was added to a 1 L round bottom flask equipped with a mechanical stirrer, nitrogen inlet-outlet, temperature probe, and condenser. Triethylamine (18.86 g, 0.186 mol) was added to the slurry. The resulting solution was heated to 35° C. followed by slow addition of 4-fluorobenzylamine (35.0 g, 0.279 mol). The thick slurry was heated at 78° C. with stirring for 6 h. The reaction mixture was polish filtered and the filtrate reheated to 70° C. The pH was adjusted to about 1.0 by slow addition of 1N HCl (405 mL). The thick slurry was cooled to 20–25° C., the solids filtered off, washed twice with ethanol SDA 3A (each 250 mL) and twice with water (each 500 mL). The white solid was dried in vacuo at 50–55° C. to afford N-[(4-fluorophenyl)methyl]-4,6,7,9-tetrahydro-3-hydroxy-9,9-dimethyl-4-oxo-pyrimido[2,1-c][1,4]oxazine-2-carboxamide (58.9 g).

reactant | Ethyl 3-hydroxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate | 0.186 mol, 50 g | OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)OCC | C12H16N2O5
reactant | Triethylamine | 0.186 mol, 18.86 g | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzylamine | 0.279 mol, 35.0 g | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | ethanol | C(C)O | C2H6O
product | N-[(4-fluorophenyl)methyl]-4,6,7,9-tetrahydro-3-hydroxy-9,9-dimethyl-4-oxo-pyrimido[2,1-c][1,4]oxazine-2-carboxamide | 58.9 g | FC1=CC=C(C=C1)CNC(=O)C=1N=C2C(OCCN2C(C1O)=O)(C)C | C17H18FN3O4
